reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([N:2][N:3]=[C:4]([N+:5]#[N:6])[H:10])([H:7])([H:8])[H:9],72.64868563494841
[C:1]([O:4]/[C:3](=[C:2](/[C:5]#[N:6])[H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],74.81303685813158
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[O:6]/[C:5](=[N:4]/[H:11])[H:12])[H:10])([H:7])([H:8])[H:9],53.9428521642703
[C:1](=[C:2]([C:3]([O:4][H:9])=[C:5]=[C:6]([H:10])[H:12])[H:11])([H:7])[H:8]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],98.17037559504459
[O:1]([C:2]([C+:3]([N:5]([C-:4]([H:10])[H:11])[H:12])[H:9])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6],26.452930645137705
[C:1]([C:6]([C@:5]([C:3]([O:2][H:12])=[O:4])([O:7][H:15])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],94.58977761877273
[C:1]([C:4]([C:2](=[O:3])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],98.75880228318925
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],97.6774425162248
[C:1]([N:2](/[C:3](=[C:4](\[O:5][H:15])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10].[C:6](#[N:7])[H:13]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],72.7258430750463
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[N:3]=[C:4]1\[O:5][C:6]1([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:15],109.75900788164302
[N+:1]([C-:2]([C:3]#[N:4])[H:8])([H:5])([H:6])[H:7]>>[N:1]([C:2]([C:3]#[N:4])([H:7])[H:8])([H:5])[H:6],22.0573387370627
[C:1]([O:2]/[C:3](=[C:4](/[O:5][H:10])[C:6]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],51.79887430756481
[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4]/[C:3](=[N:2]/[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],75.89156118598959
[C:1](=[C:2]([O:3][H:7])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],42.49728279117429
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([N+:7]#[C-:6])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],40.976009465214105
[C:1]([O:2][C-:3]=[N+:4]=[C:5]([H:11])[H:12])([H:6])([H:7])[H:8].[H:9][H:10]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],14.84286237604681
[C:1](/[C:2](=[C:3]1/[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:9])([H:7])([H:8])[H:10]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,76.6912679632225
[H:8][H:10].[N:1](=[C:2]1\[O:3][C@@:4]1([C:5]#[C:6][H:11])[H:9])\[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],36.28455992793671
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]1\[N:3]=[N:4][C@@:7]1([C:6](=[O:5])[H:9])[H:10])\[H:8],87.8656445112476
[O:1]=[C:2]([C:3](=[C:4])[H:7])[C:5]#[N:6]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6],1.6554837418838986
[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:11]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],71.0555108249948
[n:1]1([H:8])[c:2]([C:6](=[O:5])[H:9])[c:7]([H:10])[n:4][n:3]1>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],68.74888491266219
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([H:8])([H:9])[H:10].[O:5]([N+:7]#[C-:6])[H:16]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],37.4751327854639
[C:1]([O:2][H:10])([N:7]=[C:6]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],81.1722870803946
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4]/[C:5]([O:6][H:16])=[N:7]\[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],49.2316845846702
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C@:4]12([H:14])[C:5]([H:15])([H:16])[C:6]1=[C:7]2[H:17],96.21673150945759
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])[H:8].[O:1]([H:7])[H:9],82.3517876609469
